US06313114B1
(3,4-Dihydro-2H-benzo[1,4]oxazin-3-yl-methyl)-[3-(5-fluoro-1H-indol-3-yl)propyl]-amine
To a solution of 5-fluoro-3-(3-p-toluenesulfonyloxypropyl)indole (0.52 g, 1.5 mmol) and 3-aminomethyl-1,4-benzoxazine (0.25 g, 1.5 mmol) [prepared in accordance with the procedure set forth in Ind. J. Chem., 13:462-467 (1975)] in acetonitrile (15 mL) was added triethylamine (0.42 mL, 3.0 mmol) at room temperature. The reaction mixture was allowed to reflux 18 h, cooled and concentrated. The crude product was purified by silica gel column chromatography (ethyl acetate/methanol/NH4OH, 98/2/0.5) to afford 265 mg (52%) of the free base.

reactant | 5-fluoro-3-(3-p-toluenesulfonyloxypropyl)indole | 1.5 mmol, 0.52 g | FC=1C=C2C(=CNC2=CC1)CCCOS(=O)(=O)C1=CC=C(C=C1)C | C18H18FNO3S
reactant | 3-aminomethyl-1,4-benzoxazine | 1.5 mmol, 0.25 g | NCC=1COC2=C(N1)C=CC=C2 | C9H10N2O
reactant | triethylamine | 3.0 mmol, 0.42 mL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
product | (3,4-Dihydro-2H-benzo[1,4]oxazin-3-yl-methyl)-[3-(5-fluoro-1H-indol-3-yl)propyl]-amine | 265 mg, 52% | O1CC(NC2=C1C=CC=C2)CNCCCC2=CNC1=CC=C(C=C21)F | C20H22FN3O
